* File: G2_AOI21_N1.pex.netlist.pex
* Created: Wed Feb 23 15:28:20 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N1_VSS 2 4 6 8 10 22 26 29 45 50 55 64 73 74 75 76 84 85 86
+ 91 93 95 Vss
c48 96 Vss 6.78504e-19
c49 93 Vss 0.00780908f
c50 91 Vss 0.00228454f
c51 90 Vss 0.00139853f
c52 86 Vss 0.00112004f
c53 85 Vss 4.66086e-19
c54 84 Vss 0.00243143f
c55 76 Vss 5.04007e-19
c56 75 Vss 7.99512e-19
c57 74 Vss 0.00782945f
c58 73 Vss 0.00144414f
c59 64 Vss 0.00499428f
c60 55 Vss 1.70521e-19
c61 50 Vss 0.00133064f
c62 45 Vss 9.98537e-19
c63 33 Vss 0.0299355f
c64 29 Vss 7.39492e-20
c65 26 Vss 0.0988297f
c66 22 Vss 0.0337409f
c67 21 Vss 0.0688517f
c68 10 Vss 0.0820743f
c69 8 Vss 0.0811709f
c70 6 Vss 0.00290534f
c71 4 Vss 0.0806996f
c72 2 Vss 0.00249964f
r73 92 96 0.551426
r74 92 93 13.3371
r75 91 96 0.551426
r76 90 95 0.326149
r77 90 91 4.12618
r78 86 96 0.0828784
r79 84 93 0.652036
r80 84 85 4.33457
r81 80 85 0.652036
r82 74 95 0.326149
r83 74 75 15.1308
r84 73 76 0.655813
r85 72 75 0.652298
r86 72 73 4.12618
r87 55 86 1.82344
r88 50 64 1.16709
r89 50 80 2.16729
r90 45 76 1.82344
r91 29 64 0.238214
r92 27 33 0.494161
r93 27 29 1.5171
r94 26 30 0.652036
r95 26 29 1.4004
r96 23 33 0.128424
r97 21 33 0.494161
r98 21 22 2.8008
r99 18 22 0.652036
r100 10 30 2.5674
r101 8 23 2.5674
r102 6 55 1.16709
r103 4 18 2.5674
r104 2 45 1.16709
.ends

.subckt PM_G2_AOI21_N1_VDD 2 4 6 8 10 45 47 48 49 52 54 58 60 65 68 74 Vss
c52 74 Vss 0.00643177f
c53 66 Vss 7.0893e-19
c54 65 Vss 0.0020257f
c55 60 Vss 0.00235179f
c56 58 Vss 0.00176178f
c57 54 Vss 0.0124256f
c58 52 Vss 0.00134234f
c59 49 Vss 8.63529e-19
c60 48 Vss 0.0067277f
c61 47 Vss 0.00509514f
c62 45 Vss 0.00836005f
c63 33 Vss 0.0292523f
c64 26 Vss 0.101218f
c65 22 Vss 0.0340946f
c66 21 Vss 0.0688517f
c67 10 Vss 0.00221759f
c68 8 Vss 0.084156f
c69 6 Vss 0.0830742f
c70 4 Vss 0.00231756f
c71 2 Vss 0.0834535f
r72 64 65 4.16786
r73 60 64 0.655813
r74 60 62 1.82344
r75 58 74 1.16709
r76 56 58 2.16729
r77 55 68 0.326018
r78 54 65 0.652036
r79 54 55 15.6711
r80 50 66 0.0828784
r81 50 52 1.82344
r82 48 56 0.652036
r83 48 49 10.1279
r84 47 68 0.326018
r85 46 66 0.551426
r86 46 47 4.16786
r87 45 66 0.551426
r88 44 49 0.652036
r89 44 45 13.3371
r90 29 74 0.238214
r91 27 33 0.494161
r92 27 29 1.45875
r93 26 30 0.652036
r94 26 29 1.45875
r95 23 33 0.128424
r96 21 33 0.494161
r97 21 22 2.8008
r98 18 22 0.652036
r99 10 62 1.16709
r100 8 30 2.5674
r101 6 23 2.5674
r102 4 52 1.16709
r103 2 18 2.5674
.ends

.subckt PM_G2_AOI21_N1_B 2 4 10 13 18 21 26 31 Vss
c21 31 Vss 0.00356544f
c22 26 Vss 0.00310968f
c23 18 Vss 0.00100075f
c24 13 Vss 0.0578401f
c25 2 Vss 0.0575977f
r26 23 31 1.16709
r27 21 23 2.04225
r28 18 26 1.16709
r29 18 21 2.79246
r30 13 31 0.50025
r31 10 26 0.50025
r32 4 13 1.80885
r33 2 10 1.80885
.ends

.subckt PM_G2_AOI21_N1_A 2 10 15 18 Vss
c19 18 Vss 0.0051114f
c20 15 Vss 1.39305e-19
c21 10 Vss 0.0835116f
c22 2 Vss 0.0840749f
r23 15 18 1.16709
r24 10 18 0.238214
r25 7 10 1.92555
r26 4 7 0.0685365
r27 2 4 2.5674
.ends

.subckt PM_G2_AOI21_N1_Z 2 4 30 33 Vss
c30 30 Vss 0.00204003f
c31 4 Vss 0.00148239f
c32 2 Vss 0.00148239f
r33 33 35 3.83443
r34 30 33 5.33486
r35 4 35 1.16709
r36 2 30 1.16709
.ends

.subckt PM_G2_AOI21_N1_C 2 4 6 13 14 20 25 28 Vss
c24 25 Vss 4.17547e-19
c25 23 Vss 0.0307917f
c26 20 Vss 0.149447f
c27 14 Vss 0.0348316f
c28 13 Vss 0.241287f
c29 4 Vss 0.183923f
c30 2 Vss 0.180623f
r31 25 28 0.0416786
r32 20 25 1.16709
r33 18 23 0.494161
r34 18 20 2.8008
r35 15 23 0.494161
r36 13 23 0.128424
r37 13 14 8.92755
r38 10 14 0.652036
r39 6 20 3.0342
r40 4 15 5.835
r41 2 10 5.835
.ends

