* File: G2_AOI21_N1.pex.netlist.pex
* Created: Tue Mar  1 12:25:04 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N1_VSS 2 4 6 8 10 22 26 29 45 50 55 64 73 74 76 84 85 86 90
+ 91 93 95 96 Vss
c51 96 Vss 4.28045e-19
c52 93 Vss 0.00430764f
c53 91 Vss 0.00139329f
c54 90 Vss 8.42815e-19
c55 86 Vss 0.00125695f
c56 85 Vss 4.66086e-19
c57 84 Vss 0.00243143f
c58 76 Vss 0.00100335f
c59 75 Vss 0.00135524f
c60 74 Vss 0.0102454f
c61 73 Vss 0.00253611f
c62 64 Vss 0.00499428f
c63 55 Vss 1.70165e-19
c64 50 Vss 0.00133064f
c65 45 Vss 0.00129403f
c66 33 Vss 0.0299355f
c67 29 Vss 7.39492e-20
c68 26 Vss 0.0988297f
c69 22 Vss 0.0337409f
c70 21 Vss 0.0688517f
c71 10 Vss 0.0820743f
c72 8 Vss 0.0811709f
c73 6 Vss 0.0028094f
c74 4 Vss 0.0806996f
c75 2 Vss 0.00276539f
r76 92 96 0.551426
r77 92 93 13.3371
r78 91 96 0.551426
r79 90 95 0.326149
r80 90 91 4.12618
r81 86 96 0.0828784
r82 84 93 0.652036
r83 84 85 4.33457
r84 80 85 0.652036
r85 74 95 0.326149
r86 74 75 15.1308
r87 73 76 0.655813
r88 72 75 0.652298
r89 72 73 4.12618
r90 55 86 1.82344
r91 50 64 1.16709
r92 50 80 2.16729
r93 45 76 1.82344
r94 29 64 0.238214
r95 27 33 0.494161
r96 27 29 1.5171
r97 26 30 0.652036
r98 26 29 1.4004
r99 23 33 0.128424
r100 21 33 0.494161
r101 21 22 2.8008
r102 18 22 0.652036
r103 10 30 2.5674
r104 8 23 2.5674
r105 6 55 1.16709
r106 4 18 2.5674
r107 2 45 1.16709
.ends

.subckt PM_G2_AOI21_N1_VDD 2 4 6 8 10 45 46 48 50 54 56 57 58 63 65 67 68 74 Vss
c48 74 Vss 0.00636693f
c49 68 Vss 3.56526e-19
c50 65 Vss 0.00203823f
c51 63 Vss 0.00654965f
c52 58 Vss 0.00166035f
c53 57 Vss 6.17427e-19
c54 56 Vss 0.0030725f
c55 54 Vss 0.00174999f
c56 50 Vss 0.012431f
c57 48 Vss 0.00148319f
c58 46 Vss 0.00118366f
c59 45 Vss 0.00500284f
c60 33 Vss 0.0307391f
c61 26 Vss 0.10055f
c62 22 Vss 0.03553f
c63 21 Vss 0.0712517f
c64 10 Vss 0.00221759f
c65 8 Vss 0.0830779f
c66 6 Vss 0.0830745f
c67 4 Vss 0.00231756f
c68 2 Vss 0.0844645f
r69 64 68 0.551426
r70 64 65 4.16786
r71 63 68 0.551426
r72 62 63 13.2955
r73 58 68 0.0828784
r74 58 60 1.82344
r75 56 62 0.652298
r76 56 57 4.22534
r77 54 74 1.16709
r78 52 57 0.652298
r79 52 54 2.12561
r80 51 67 0.326018
r81 50 65 0.652036
r82 50 51 15.6711
r83 46 48 1.82344
r84 45 67 0.326018
r85 44 46 0.655813
r86 44 45 4.16786
r87 29 74 0.238214
r88 27 33 0.494161
r89 27 29 1.45875
r90 26 30 0.652036
r91 26 29 1.45875
r92 23 33 0.128424
r93 21 33 0.494161
r94 21 22 2.8008
r95 18 22 0.652036
r96 10 60 1.16709
r97 8 30 2.5674
r98 6 23 2.5674
r99 4 48 1.16709
r100 2 18 2.5674
.ends

.subckt PM_G2_AOI21_N1_B 2 4 13 18 21 26 31 Vss
c18 31 Vss 0.00362956f
c19 26 Vss 0.00325077f
c20 18 Vss 0.00127836f
c21 13 Vss 0.0578401f
c22 2 Vss 0.057478f
r23 23 31 1.16709
r24 21 23 2.04225
r25 18 26 1.16709
r26 18 21 2.79246
r27 13 31 0.50025
r28 10 26 0.50025
r29 4 13 1.80885
r30 2 10 1.80885
.ends

.subckt PM_G2_AOI21_N1_A 2 10 15 18 Vss
c19 18 Vss 0.0051114f
c20 15 Vss 1.39305e-19
c21 10 Vss 0.0835116f
c22 2 Vss 0.0840749f
r23 15 18 1.16709
r24 10 18 0.238214
r25 7 10 1.92555
r26 4 7 0.0685365
r27 2 4 2.5674
.ends

.subckt PM_G2_AOI21_N1_Z 2 4 30 33 Vss
c28 30 Vss 0.00139346f
c29 4 Vss 0.00148239f
c30 2 Vss 0.00153036f
r31 33 35 3.83443
r32 30 33 5.33486
r33 4 35 1.16709
r34 2 30 1.16709
.ends

.subckt PM_G2_AOI21_N1_C 2 4 6 13 14 20 25 28 Vss
c28 25 Vss 4.17547e-19
c29 23 Vss 0.0299669f
c30 20 Vss 0.14872f
c31 14 Vss 0.0356774f
c32 13 Vss 0.242939f
c33 4 Vss 0.181028f
c34 2 Vss 0.183287f
r35 25 28 0.0416786
r36 20 25 1.16709
r37 18 23 0.494161
r38 18 20 2.8008
r39 15 23 0.494161
r40 13 23 0.128424
r41 13 14 8.92755
r42 10 14 0.652036
r43 6 20 3.0342
r44 4 15 5.835
r45 2 10 5.835
.ends

